US03933865
(Compound 8). 3,7-Dimethyloct-6-enal (15.4 g) in 50 ml ethyl alcohol was added to a solution of hydroxylamine hydrochloride (7 g) and sodium carbonate (5 g) in 25 ml of water. The mixture was heated on the steambath for 15 minutes and then allowed to cool. Addition of an excess of water yielded 3,7-dimethyl-oct-6-enal oxime as an oil. The oil was extracted with ether and the organic layer dried and evaporated. The residue was added dropwise to a solution of lithium aluminum hydride (3.8 g) in 380 ml anhydrous ethyl ether. After refluxing overnight an additional quantity of lithium aluminum hydride (0.78 g) was added to complete the reduction. Decomposition of the reaction mixture with excess aqueous sodium hydroxide (200 ml of 10 percent solution), separation of the ether layer, and distillation yielded 3,7-dimethyloct-6-enyl amine (10 g) bp 60°/0.5 mm). To an ice cold solution of this amine (1.5 g) and triethylamine (1.1 g) in ether (25 ml) was added dropwise a solution of ethyl chloroformate (1.1 g) in ether (10 ml). The reaction mixture was allowed to stand overnight at room temperature. The triethylamine hydrochloride was filtered off and the ether solution washed with water, dilute hydrochloric acid, and again with water. The ether solution was dried and evaporated and the residue distilled to yield 2 g carbamic acid (3,7-dimethyl-6-octenyl)-, ethyl ester (Compound 7), bp 102°-103°/0.1 mm. The ester was epoxidized as described in the previous examples to yield VII. The crude reaction product can be readily purified by chromatography using neutral activated alumina.

reactant | 3,7-Dimethyloct-6-enal | 15.4 g | CC(CC=O)CCC=C(C)C | C10H18O
reactant | hydroxylamine hydrochloride | 7 g | Cl.NO
reactant | sodium carbonate | 5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | 3,7-dimethyl-oct-6-enal oxime | CC(CC=NO)CCC=C(C)C | C10H19NO
